US07115598B2
b) 4-Chloro-2-hydroxybenzaldehyde
2,3-Dichloro-5,6-dicyano-1-4-benzoquinone (DDQ, 9.92 g, 43.7 mmol) was added to a solution of 5-chloro-2-hydroxymethylphenol in dichloromethane (65 mL) and tetrahydrofuran (15 mL). The reaction mixture was stirred at room temperature for 4 h. Then, the solvent was evaporated under vacuum and the crude was purified by chromatography on silica to afford the title compound (72%):

reactant | 5-chloro-2-hydroxymethylphenol | ClC=1C=CC(=C(C1)O)CO | C7H7ClO2
solvent | dichloromethane | 65 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-Chloro-2-hydroxybenzaldehyde | 72% | ClC1=CC(=C(C=O)C=C1)O | C7H5ClO2
